US07402608B2
A solution of p-methoxybenzyl amine (690 mg, 722 μL, 8.01 mmol) in dry methanol (5 ml), under nitrogen was cooled to 0° and treated drpwise with a solution of metacrylate (951 μL, 1.0 g, 7.28 mmol) in MeOH (1.0 ml) added over 2 min. After 15.5 h the clear solution was distilled at atmospheric pressure to remove MeOH. The high boiling residue (>170) formed 3-(4-Methoxy-benzylamino)-propionic acid methyl ester (1.88 g, Quantitative) 1H (300 MHz, CDCl3) 1.78 (bs, 1H), 2.45 and 2.53 (t, J=3.0 Hz, 2H), 2.77 and 2.87 (t, J=3.0 Hz, 2H), 3.46 and 3.67 (s, 3H), 3.64 and 3.73 (s, 3H), 3.88 (m, 2H), 6.78 and 6.85 (m, 2H), 7.17 and 7.23 (m, 2H).

reactant | p-methoxybenzyl amine | 8.01 mmol, 722 μL, 690 mg | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | methanol | 5 ml | CO | CH4O
reactant | MeOH | 1.0 ml | CO | CH4O
product | 3-(4-Methoxy-benzylamino)-propionic acid methyl ester | 1.88 g | COC(CCNCC1=CC=C(C=C1)OC)=O | C12H17NO3
